US06887863B2
(2R)-2-((tert-butoxycarbonyl)amino)-4-((isopropyl)sulfanyl)butanoic acid
A solution of D-homocystine (20 g, 75 mmol) in liquid ammonia (600 mL) was treated sequentially with sodium (8.9 g, 390 mmol) and 2-bromopropane (20 mL, 210 mmol). The ammonia was allowed to evaporate under a stream of nitrogen, and the residues take up in 1:1 2-propanol/water (500 mL), then treated with di-tert-butyl dicarbonate (50 g, 230 mmol) at room temperature for 6 hours, then concentrated. The residues were taken up in water and the pH adjusted to 10 with NaOH. The solution was washed twice with ether, then adjusted to pH 2 with HCl, then extracted twice with ethyl acetate. The ethyl acetate extracts were dried (MgSO4), filtered, then concentrated to provide the desired product.

reactant | D-homocystine | 75 mmol, 20 g | C(C[C@H](C(=O)O)N)SSCC[C@H](C(=O)O)N | C8H16N2O4S2
reactant | sodium | 390 mmol, 8.9 g | [Na] | Na
reactant | 2-bromopropane | 210 mmol, 20 mL | BrC(C)C | C3H7Br
reactant | di-tert-butyl dicarbonate | 230 mmol, 50 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ammonia | 600 mL | N | H3N
product | (2R)-2-((tert-butoxycarbonyl)amino)-4-((isopropyl)sulfanyl)butanoic acid | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)CCSC(C)C | C12H23NO4S
